US07338960B2
{[2-Methyl-4-({[4′-(trifluoromethyl)-3-biphenylyl]methyl}thio)phenyl]oxy}acetic acid
A solution of ethyl {[2-methyl-4-({[4′-(trifluoromethyl)-3-biphenylyl]methyl}thio)phenyl]oxy}acetate (209 mg) in THF (20 mL) and aqueous NaOH (2M, 20 mL) was stirred at rt overnight and then heated to 60° C. for 2 hours. The mixture was then allowed to cool to rt and the THF removed under vacuum. The resulting aqueous mixture was then acidified and extracted with EtOAc (3×) and the organic layer washed with brine dried (MgSO4), filtered and reduced. Purification by mass directed auto-prep HPLC afforded the title compound as a white solid (24 mg).

reactant | ethyl {[2-methyl-4-({[4′-(trifluoromethyl)-3-biphenylyl]methyl}thio)phenyl]oxy}acetate | 209 mg | CC1=C(C=CC(=C1)SCC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)OCC | C25H23F3O3S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | NaOH | 2M, 20 mL | [OH-].[Na+]
product | {[2-Methyl-4-({[4′-(trifluoromethyl)-3-biphenylyl]methyl}thio)phenyl]oxy}acetic acid | 24 mg | CC1=C(C=CC(=C1)SCC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)O | C23H19F3O3S
